US08802688B2
Step 2: benzyl 1-(bicyclo[1.1.1]pentan-1-yl)-7-oxo-1,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-carboxylate
To a solution of benzyl 1-(bicyclo[1.1.1]pentan-1-yl)-1,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate (340 mg, 0.87 mmol) in 3:1 tetrahydrofuran:water (10 mL) was added N-bromosuccinimide (155 mg, 0.87 mmol). The reaction was stirred at room temperature for 45 minutes. The reaction was diluted with ethyl acetate (50 mL), washed with 0.5 N aqueous sodium hydroxide (25 mL) and saturated aqueous sodium thiosulfate (25 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated. The resulting oil was taken up in dichloromethane (5 mL) and treated with activated 4 A molecular sieves (500 mg) and tetrapropylammonium perruthenate (16 mg, 0.04 mmol). The slurry was treated with N-methylmorpholine-N-oxide (243 mg, 1.75 mmol) in acetonitrile (5 mL). The reaction was stirred at room temperature for 2 hours. The reaction was filtered through Celite and the filtrate was concentrated. The residue was purified by flash column chromatography (7-60% ethyl acetate/heptanes) to yield a clear oil. The oil was taken up in tetrahydrofuran (5 mL) and treated with saturated aqueous ammonium chloride (5 mL) and zinc dust (171 mg, 2.62 mmol). The mixture was stirred at room temperature for 30 minutes. The reaction was diluted with water (50 mL) and extracted with ethyl acetate (2×30 mL). The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (7-60% ethyl acetate/heptanes) gave the title compound (148 mg, 42%) as a white solid. 1H NMR (400 MHz, CDCl3, δ): 7.34 (m, 6 H), 5.13 (s, 2 H), 3.51 (m, 4 H), 2.75 (s, 2 H), 2.59 (s, 1 H), 2.54 (s, 2 H), 2.41 (s, 6 H), 1.56 (m, 4 H).

reactant | benzyl 1-(bicyclo[1.1.1]pentan-1-yl)-1,4-dihydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 0.87 mmol, 340 mg | C12(CC(C1)C2)N2N=CC=1CC3(CCN(CC3)C(=O)OCC3=CC=CC=C3)C=CC21 | C24H27N3O2
reactant | N-bromosuccinimide | 0.87 mmol, 155 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-methylmorpholine-N-oxide | 1.75 mmol, 243 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
catalyst | tetrapropylammonium perruthenate | 0.04 mmol, 16 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
catalyst | zinc | 2.62 mmol, 171 mg | [Zn] | Zn
solvent | water | 10 mL | O | H2O
product | benzyl 1-(bicyclo[1.1.1]pentan-1-yl)-7-oxo-1,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-carboxylate | 148 mg, 42% | C12(CC(C1)C2)N2N=CC=1CC3(CCN(CC3)C(=O)OCC3=CC=CC=C3)CC(C21)=O | C24H27N3O3
